US06949542B2
{5-Ethoxy-2-[3-oxo-3-(3-pyridin-3-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-5-ethoxy-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J8) (240 mg, 0.75 mmol) and 3-oxo-3-(3-pyridin-3-yl-phenyl)-propionic acid tert-butyl ester (Example K1) (223 mg, 0.75 mmol) according to the general procedure M. Obtained as a light yellow solid (271 mg, 66%).

reactant | (2-amino-5-ethoxy-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.75 mmol, 240 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC)C(F)(F)F)N)=O | C14H19F3N2O3
reactant | 3-oxo-3-(3-pyridin-3-yl-phenyl)-propionic acid tert-butyl ester | 0.75 mmol, 223 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C=1C=NC=CC1)=O)=O | C18H19NO3
product | {5-Ethoxy-2-[3-oxo-3-(3-pyridin-3-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC)C(F)(F)F)NC(CC(C1=CC(=CC=C1)C=1C=NC=CC1)=O)=O)=O | C28H28F3N3O5
